US09315506B2
To a solution of di-tert.-butyl-N-(4-(tert-butoxycarbonylamino)-2-nitrobenzamido)-L-glutamate in 53 ml dichloromethane were added 53 ml of trifluoroacetic acid at 0° C. under argon. After 1 hour at room temperature the mixture was concentrated to dryness to give 3.54 g of N-(4-amino-2-nitrobenzamido)-L-glutamic acid as a yellow foam.

reactant | di-tert.-butyl-N-(4-(tert-butoxycarbonylamino)-2-nitrobenzamido)-L-glutamate | C(C)(C)(C)OC([C@@H](NNC(C1=C(C=C(C=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-])=O)CCC(=O)OC(C)(C)C)=O | C25H38N4O9
reactant | trifluoroacetic acid | 53 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 53 ml | ClCCl | CH2Cl2
product | N-(4-amino-2-nitrobenzamido)-L-glutamic acid | 3.54 g | NC1=CC(=C(C(=O)NN[C@@H](CCC(=O)O)C(=O)O)C=C1)[N+](=O)[O-] | C12H14N4O7
